US09447090B2
To 100 mg of 1-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}oxy)-1H-benzotriazole were 1.7 ml of dichloromethane, 0.065 ml of (S)-(−)-1-phenylethylamine, and 0.07 ml of triethylamine, followed by stirring overnight. To the reaction mixture were added water and chloroform to carry out a layer separation operation, followed by drying over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography. To the obtained purified product was added diisopropyl ether, and the resulting solid was collected by filtration and dried to obtain 80 mg of 8-(cyclohexylmethoxy)-2-methyl-N-[(1S)-1-phenylethyl]imidazo[1,2-a]pyridine-3-carboxamide.

reactant | 1-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}oxy)-1H-benzotriazole | 100 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)ON2N=NC1=C2C=CC=C1 | C22H23N5O3
reactant | dichloromethane | 1.7 ml | ClCCl | CH2Cl2
reactant | (S)-(−)-1-phenylethylamine | 0.065 ml | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 8-(cyclohexylmethoxy)-2-methyl-N-[(1S)-1-phenylethyl]imidazo[1,2-a]pyridine-3-carboxamide | 80 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](C)C2=CC=CC=C2 | C24H29N3O2
